US08685986B2
4-(e) N-[4-(Thiazol-2-yl)benzyl]pyridin-3-ylsulfonamide
Reaction and post-treatment were carried out in the same manner as in Reference Example 2-(d) except for using 3-pyridylsulfonyl chloride (495 mg, 2.79 mmol), and using 4-(thiazol-2-yl)benzylamine hydrochloride (687 mg, 2.61 mmol) obtained in Reference Example 4-(d) in place of (6-phenylpyridazin-3-ylmethyl)amine hydrochloride to afford the title compound (689 mg) as a white solid. (Yield: 80%)

reactant | 3-pyridylsulfonyl chloride | 2.79 mmol, 495 mg | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
reactant | 4-(thiazol-2-yl)benzylamine hydrochloride | 2.61 mmol, 687 mg | Cl.S1C(=NC=C1)C1=CC=C(CN)C=C1
reactant | (6-phenylpyridazin-3-ylmethyl)amine hydrochloride | Cl.C1(=CC=CC=C1)C1=CC=C(N=N1)CN
product | N-[4-(Thiazol-2-yl)benzyl]pyridin-3-ylsulfonamide | 689 mg, Yield: 80% | S1C(=NC=C1)C1=CC=C(CNS(=O)(=O)C=2C=NC=CC2)C=C1 | C15H13N3O2S2
